US08372864B2
8.6 g of 7-nitro-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate, 10 cm3 of methanol and 28 mg of 10% (dry basis) palladium-on-carbon are stirred under 2 bar of hydrogen in an autoclave for 2 h 20 min at a temperature of 25° C. The catalyst is filtered through a Celite 545 pellet and washed with 2 lots of 100 cm3 of methanol. The filtrate is then concentrated under reduced pressure (5 kPa). 7.7 g of methyl 7-amino-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate are obtained in the form of a light green powder.

reactant | 7-nitro-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate | 8.6 g | [N+](=O)([O-])C=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)[O-]
reactant | hydrogen | [H][H] | H2
reactant | methanol | 10 cm3 | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | methyl 7-amino-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate | 7.7 g | NC=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C18H26N2O3
